US05166214
Part B. To a solution of 5-(4,5-diphenyl-1H-imidazol-2-ylthio)pentanoic acid ethyl ester (7.6 g, 0.02 mol) in ethanol (200 mL), was added dropwise a solution of sodium hydroxide (7.6 g) in water (200 mL), and the reaction mixture was stirred at reflux under nitrogen for 3 hours. The reaction mixture was concentrated to half the original volume and then extracted with ether. The ether extracts were discarded. The reaction mixture was acidified to pH 1 with 1N hydrochloric acid and extracted with ether, and the combined organic extracts were dried over magnesium sulfate and concentrated under vacuum. The resulting solid was recrystallized from acetonitrile and triturated with hexane to give 5-(4,5-diphenyl-1H-imidazol-2-ylthio)pentanoic acid (3.88 g, 0.011 mol) as a white solid, mp 190°-195°. 1H NMR (DMSO-d6) δ12.6(s,1H), 7.6-7.1(m,10H), 3.3-3.1(m,2H), 2.3-2.1(m,3H), 1.8-1.6(m,4H).

reactant | 5-(4,5-diphenyl-1H-imidazol-2-ylthio)pentanoic acid ethyl ester | 0.02 mol, 7.6 g | C(C)OC(CCCCSC=1NC(=C(N1)C1=CC=CC=C1)C1=CC=CC=C1)=O | C22H24N2O2S
reactant | sodium hydroxide | 7.6 g | [OH-].[Na+]
solvent | ethanol | 200 mL | C(C)O | C2H6O
solvent | water | 200 mL | O | H2O
product | 5-(4,5-diphenyl-1H-imidazol-2-ylthio)pentanoic acid | 0.011 mol, 3.88 g | C1(=CC=CC=C1)C=1N=C(NC1C1=CC=CC=C1)SCCCCC(=O)O | C20H20N2O2S
